US07994143B2
13-methyltetradecan-1-ol was prepared from 10-bromodecanol and 3-methylbutylbromide in 62% yield. The 1H NMR and MS-ESI data matched those reported by Yuasa et al. (Yuasa and Tsuruta (2004) Flavour and Fragrance Journal 19:199-204).

reactant | 10-bromodecanol | BrCCCCCCCCCCO | C10H21BrO
reactant | 3-methylbutylbromide | CC(CCBr)C | C5H11Br
product | 13-methyltetradecan-1-ol | 62% yield | CC(CCCCCCCCCCCCO)C | C15H32O
